US08278324B2
3-[6-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinyl]propanoic acid sodium salt
2M sodium hydroxide (2 ml) was added to a solution of ethyl 3-[6-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinyl]propanoate (Preparation 24; 80 mg, 0.17 mmol) in ethanol (2 ml) at 60° C. The reaction mixture was stirred at 60° C. for 2 hours, cooled to room temperature and diluted with water (2 ml). The solid was filtered off, washed with a small amount of water and dried to give the title compound as a colourless solid (55 mg). 1H NMR (400 MHz, d6DMSO) δ: 1.39 (6H, d), 2.08 (2H, t), 2.44 (3H, s), 2.59-2.78 (6H, m), 3.56 (2H, s), 4.98 (1H, m), 7.09 (1H, d), 7.55 (1H, d), 7.65 (1H, d), 8.40 (1H, dd), 8.50 (1H, s). MS m/z 447 [MH]+.

reactant | sodium hydroxide | 2M, 2 ml | [OH-].[Na+]
reactant | ethyl 3-[6-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinyl]propanoate | 0.17 mmol, 80 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C(=C2CCN(CC2=CC1)CCC(=O)OCC)C | C27H30N4O4
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 3-[6-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinyl]propanoic acid sodium salt | 55 mg | [Na+].C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C(=C2CCN(CC2=CC1)CCC(=O)[O-])C | InChI=1S/C25H26N4O4.Na/c1-15(2)32-22-7-5-17(12-19(22)13-26)25-27-24(28-33-25)21-6-4-18-14-29(11-9-23(30)31)10-8-20(18)16(21)3;/h4-7,12,15H,8-11,14H2,1-3H3,(H,30,31);/q;+1/p-1
